US06821965B1
N-(3,4-dichlorobenzyl)-3-(3,4,5-trimethoxybenzamido)-4-methylbenzamide
Using an analogous procedure to that described in Example 2, 3,4,5-trimethoxybenzoyl chloride was reacted with 3-amino-N-(3,4-dichlorobenzyl)-4-methylbenzamide to give the title compound which was purified by column chromatography using increasingly polar mixtures of methylene chloride and methanol as eluent; NMR Spectrum: (CDCl3) 2.28 (s, 3H), 3.87 (m, 9H), 4.48 (d, 2H), 7.13 (m, 5H), 7.36 (m, 2H), 7.52 (d, 1H), 8.01 (s, 1H), 8.13 (s, 1H); Mass Spectrum: M-H− 503.

reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 3-amino-N-(3,4-dichlorobenzyl)-4-methylbenzamide | NC=1C=C(C(=O)NCC2=CC(=C(C=C2)Cl)Cl)C=CC1C | C15H14Cl2N2O
product | N-(3,4-dichlorobenzyl)-3-(3,4,5-trimethoxybenzamido)-4-methylbenzamide | ClC=1C=C(CNC(C2=CC(=C(C=C2)C)NC(C2=CC(=C(C(=C2)OC)OC)OC)=O)=O)C=CC1Cl | C25H24Cl2N2O5
